
simulator lang=spice insensitive=yes

.lib nand3

.subckt nand3 Out In3 In1 In2


m7 n_7 in3 gnd gnd n l=1.3e-007 w=0.0001 
m1 out in1 n_4 n_4 p l=1.3e-007 w=0.0001 
m3 out in2 n_4 n_4 p l=1.3e-007 w=0.0001 
m6 n_6 in2 n_7 gnd n l=1.3e-007 w=0.0001 
m4 out in3 n_4 n_4 p l=1.3e-007 w=0.0001 
m5 out in1 n_6 gnd n l=1.3e-007 w=0.0001 
v2 n_4 gnd 1.3 


.ends nand3

.endl nand3