*** Title:

.global gnd! vdd 
.param l_n=1u 
.param l_p=1u 
.param w_p=10u 
.param w_n=5u 
.param vdd_0=0 


v_vdc1_0 vdd gnd! 2.5 ac=0 , 0 
v_vpulse1_1 n_123 gnd! pulse 0 2.5 1e-008 1e-009 1e-009 5e-008 1 ac=0 , 0 
x_block1 n_123 n_8 osc 
x_block2 n_8 n_16 osc 
x_block3 n_16 n_24 osc 
x_block4 n_24 n_32 osc 
x_block5 n_32 n_40 osc 
x_block6 n_40 n_48 osc 
x_block7 n_48 n_56 osc 
x_block8 n_56 n_64 osc 
x_block9 n_64 n_72 osc 
x_block10 n_72 n_80 osc 
x_block11 n_80 n_88 osc 
x_block12 n_88 n_96 osc 
x_block13 n_96 n_104 osc 
x_block14 n_104 n_112 osc 
x_block15 n_112 n_120 osc 
x_block16 n_120 n_124 osc 
x_block17 n_124 n_1 osc 
x_block18 n_1 n_15 osc 
x_block19 n_15 n_20 osc 
x_block20 n_20 n_29 osc 
x_block21 n_29 n_38 osc 
x_block22 n_38 n_47 osc 
x_block23 n_47 n_49 osc 
x_block24 n_49 n_59 osc 
x_block25 n_59 n_70 osc 
x_block26 n_70 n_77 osc 
x_block27 n_77 n_81 osc 
x_block28 n_81 n_93 osc 
x_block29 n_93 n_102 osc 
x_block30 n_102 n_110 osc 
x_block31 n_110 n_118 osc 
x_block32 n_118 n_125 osc 
x_block33 n_125 n_5 osc 
x_block34 n_5 n_9 osc 
x_block35 n_9 n_23 osc 
x_block36 n_23 n_31 osc 
x_block37 n_31 n_39 osc 
x_block38 n_39 n_44 osc 
x_block39 n_44 n_53 osc 
x_block40 n_53 n_57 osc 
x_block41 n_57 n_67 osc 
x_block42 n_67 n_78 osc 
x_block43 n_78 n_87 osc 
x_block44 n_87 n_89 osc 
x_block45 n_89 n_99 osc 
x_block46 n_99 n_111 osc 
x_block47 n_111 n_114 osc 
x_block48 n_114 n_126 osc 
x_block49 n_126 n_4 osc 
x_block50 n_4 n_14 osc 
x_block51 n_14 n_22 osc 
x_block52 n_22 n_30 osc 
x_block53 n_30 n_37 osc 
x_block54 n_37 n_41 osc 
x_block55 n_41 n_50 osc 
x_block56 n_50 n_58 osc 
x_block57 n_58 n_71 osc 
x_block58 n_71 n_79 osc 
x_block59 n_79 n_83 osc 
x_block60 n_83 n_91 osc 
x_block61 n_91 n_103 osc 
x_block62 n_103 n_109 osc 
x_block63 n_109 n_113 osc 
x_block64 n_113 n_127 osc 
x_block65 n_127 n_2 osc 
x_block66 n_2 n_11 osc 
x_block67 n_11 n_21 osc 
x_block68 n_21 n_28 osc 
x_block69 n_28 n_33 osc 
x_block70 n_33 n_42 osc 
x_block71 n_42 n_52 osc 
x_block72 n_52 n_62 osc 
x_block73 n_62 n_68 osc 
x_block74 n_68 n_73 osc 
x_block75 n_73 n_82 osc 
x_block76 n_82 n_94 osc 
x_block77 n_94 n_100 osc 
x_block78 n_100 n_105 osc 
x_block79 n_105 n_115 osc 
x_block80 n_115 n_128 osc 
x_block81 n_128 n_6 osc 
x_block82 n_6 n_10 osc 
x_block83 n_10 n_19 osc 
x_block84 n_19 n_25 osc 
x_block85 n_25 n_34 osc 
x_block86 n_34 n_43 osc 
x_block87 n_43 n_54 osc 
x_block88 n_54 n_63 osc 
x_block89 n_63 n_69 osc 
x_block90 n_69 n_74 osc 
x_block91 n_74 n_85 osc 
x_block92 n_85 n_95 osc 
x_block93 n_95 n_101 osc 
x_block94 n_101 n_106 osc 
x_block95 n_106 n_116 osc 
x_block96 n_116 n_129 osc 
x_block97 n_129 n_7 osc 
x_block98 n_7 n_13 osc 
x_block99 n_13 n_18 osc 
x_block100 n_18 n_27 osc 
x_block101 n_27 n_35 osc 
x_block102 n_35 n_46 osc 
x_block103 n_46 n_55 osc 
x_block104 n_55 n_61 osc 
x_block105 n_61 n_65 osc 
x_block106 n_65 n_75 osc 
x_block107 n_75 n_84 osc 
x_block108 n_84 n_90 osc 
x_block109 n_90 n_97 osc 
x_block110 n_97 n_107 osc 
x_block111 n_107 n_117 osc 
x_block112 n_117 n_130 osc 
x_block113 n_130 n_3 osc 
x_block114 n_3 n_12 osc 
x_block115 n_12 n_17 osc 
x_block116 n_17 n_26 osc 
x_block117 n_26 n_36 osc 
x_block118 n_36 n_45 osc 
x_block119 n_45 n_51 osc 
x_block120 n_51 n_60 osc 
x_block121 n_60 n_66 osc 
x_block122 n_66 n_76 osc 
x_block123 n_76 n_86 osc 
x_block124 n_86 n_92 osc 
x_block125 n_92 n_98 osc 
x_block126 n_98 n_108 osc 
x_block127 n_108 n_119 osc 
x_block128 n_119 n_121 osc 

.subckt osc in out 
m_n9_0 n_4 n_2 gnd! gnd! nmos_mod1 l='l_n' w='w_n' dtemp=0 delvto=0 
m_n1_1 n_5 n_4 gnd! gnd! nmos_mod1 l='l_n' w='w_n' dtemp=0 delvto=0 
m_n2_2 n_6 n_5 gnd! gnd! nmos_mod1 l='l_n' w='w_n' dtemp=0 delvto=0 
m_n11_3 n_7 n_6 gnd! gnd! nmos_mod1 l='l_n' w='w_n' dtemp=0 delvto=0 
m_n3_4 n_8 n_7 gnd! gnd! nmos_mod1 l='l_n' w='w_n' dtemp=0 delvto=0 
m_n4_5 n_9 n_8 gnd! gnd! nmos_mod1 l='l_n' w='w_n' dtemp=0 delvto=0 
m_n5_6 n_10 n_9 gnd! gnd! nmos_mod1 l='l_n' w='w_n' dtemp=0 delvto=0 
m_n6_7 n_11 n_10 gnd! gnd! nmos_mod1 l='l_n' w='w_n' dtemp=0 delvto=0 
m_n7_8 n_12 n_11 gnd! gnd! nmos_mod1 l='l_n' w='w_n' dtemp=0 delvto=0 
m_n8_9 n_13 n_12 gnd! gnd! nmos_mod1 l='l_n' w='w_n' dtemp=0 delvto=0 
m_n12_10 out n_13 gnd! gnd! nmos_mod1 l='l_n' w='w_n' dtemp=0 delvto=0 
m_p10_11 n_4 n_2 vdd vdd pmos_mod1 l='l_p' w='w_p' dtemp=0 delvto=0 
m_p1_12 n_5 n_4 vdd vdd pmos_mod1 l='l_p' w='w_p' dtemp=0 delvto=0 
m_p2_13 n_6 n_5 vdd vdd pmos_mod1 l='l_p' w='w_p' dtemp=0 delvto=0 
m_p5_14 n_10 n_9 vdd vdd pmos_mod1 l='l_p' w='w_p' dtemp=0 delvto=0 
m_p6_15 n_11 n_10 vdd vdd pmos_mod1 l='l_p' w='w_p' dtemp=0 delvto=0 
m_p7_16 n_12 n_11 vdd vdd pmos_mod1 l='l_p' w='w_p' dtemp=0 delvto=0 
m_p8_17 n_13 n_12 vdd vdd pmos_mod1 l='l_p' w='w_p' dtemp=0 delvto=0 
m_p12_18 out n_13 vdd vdd pmos_mod1 l='l_p' w='w_p' dtemp=0 delvto=0 
m_n10_19 n_2 in gnd! gnd! nmos_mod1 l='l_n' w='w_n' dtemp=0 delvto=0 
m_p11_20 n_7 n_6 vdd vdd pmos_mod1 l='l_p' w='w_p' dtemp=0 delvto=0 
m_p4_21 n_9 n_8 vdd vdd pmos_mod1 l='l_p' w='w_p' dtemp=0 delvto=0 
m_p3_22 n_8 n_7 vdd vdd pmos_mod1 l='l_p' w='w_p' dtemp=0 delvto=0 
m_p9_23 n_2 in vdd vdd pmos_mod1 l='l_p' w='w_p' dtemp=0 delvto=0 
.ends
